US03974289
(i) 7-Bromo-4-hydroxy-3-nitrocoumarin
Fuming nitric acid (27 ml) was added to a stirred suspension of 7-bromo-4-hydroxycoumarin (m.p. 247.5°-248.5°; 4.18g) in chloroform (400 ml) at room temperature over 1.5 hours. After a further 1.5 hours, the solvent was removed in vacuo at room temperature and 6N hydrochloric acid (100 ml) added to the residue. Filtration gave the product, m.p. 155°-7°, (C9H4NO5Br requires C, 37.79; H, 1.41; N. 4.90; Br, 27.94. Found: C, 37.46; H, 1.45; N, 4.78; Br, 27.93).

reactant | nitric acid | 27 ml | [N+](=O)(O)[O-] | HNO3
reactant | 7-bromo-4-hydroxycoumarin | 4.18g | BrC1=CC=C2C(=CC(OC2=C1)=O)O | C9H5BrO3
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Bromo-4-hydroxy-3-nitrocoumarin | BrC1=CC=C2C(=C(C(OC2=C1)=O)[N+](=O)[O-])O | C9H4BrNO5
